US09447091B2
N-(2′,4′-difluoro-5-(6-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)acetamide
A mixture N-(5-(6-ethynyl-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide (250 mg, 0.644 mmol), 4-azidotetrahydro-2H-pyran (90 mg, 0.77 mmol, 1.2 eq.), copper iodide (12 mg, 0.06 mmol, 0.1 eq.) in DMF was stirred at 90° C. for 16 h. The mixture was quenched with water and the precipitate formed was filtered and dried to give the crude product which was purified by preparative HPLC to give the product in 45% yield (150 mg). 1H NMR (300 MHz, DMSO): δ 10.4 (s, 1H), 8.99-8.97 (m, 2H), 8.88 (s, 1H), 8.61-8.60 (m, 1H), 8.32-8.29 (m, 1H), 7.91 (d, 1H), 7.76-7.68 (m, 2H), 7.48-7.41 (m, 1H), 7.3-7.24 (m, 1H), 4.80 (m, 1H), 4.02 (m, 2H), 3.50-3.60 (m, 2H), 2.10 (s, 3H), 2.0-2.12 (m, 4H); LC-MS (ESI): Calculated mass: 515.5; Observed mass: 516.5 [M+H]+ (rt: 1.37 min).

reactant | N-(5-(6-ethynyl-3H-imidazo[4,5-b]pyridin-3-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)acetamide | 0.644 mmol, 250 mg | C(#C)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NC(C)=O | C22H14F2N4O
reactant | 4-azidotetrahydro-2H-pyran | 0.77 mmol, 90 mg, 1.2 eq. | N(=[N+]=[N-])C1CCOCC1 | C5H9N3O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.06 mmol, 12 mg, 0.1 eq. | [Cu](I)I
product | N-(2′,4′-difluoro-5-(6-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-3H-imidazo[4,5-b]pyridin-3-yl)-[1,1′-biphenyl]-3-yl)acetamide | 45% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC=2C1=NC=C(C2)C=2N=NN(C2)C2CCOCC2)NC(C)=O | C27H23F2N7O2
